US08604061B2
To a stirred, cooled (0° C.) solution of (RS)-2-amino-2-(4-bromo-3-fluoro-phenyl)-ethanol (3.26 g) and sodium acetate (2.22 g) in methanol (25 ml) was added dropwise a solution of cyanogen bromide (1.52 g) in methanol (10 ml) over 10 min. The mixture was then allowed to warm to at r.t. and stirring continued for 16 h. The mixture was concentrated in vacuo and the residue was resuspended in water and made basic by addition of 1 M aq sodium hydroxide solution. The mixture was then extracted twice with dichloromethane and the combined organic phases were dried over sodium sulphate and concentrated in vacuo. The residue was triturated in dichloromethane and the resultign crystals washed with ether to give (RS)-4-(4-bromo-3-fluoro-phenyl)-4,5-dihydro-oxazol-2-ylamine (1.09 g, 30%) as a white solid. MS (ISP): 261.0 ([{81Br}M+H]+), 258.9 ([{79Br}M+H]+).

reactant | (RS)-2-amino-2-(4-bromo-3-fluoro-phenyl)-ethanol | 3.26 g | NC(CO)C1=CC(=C(C=C1)Br)F | C8H9BrFNO
reactant | sodium acetate | 2.22 g | C(C)(=O)[O-].[Na+]
reactant | cyanogen bromide | 1.52 g | N#CBr | CBrN
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | (RS)-4-(4-bromo-3-fluoro-phenyl)-4,5-dihydro-oxazol-2-ylamine | 1.09 g, 30% | BrC1=C(C=C(C=C1)C1N=C(OC1)N)F | C9H8BrFN2O
